US04863942
2.0 g of Raney nickel are added to a solution of 10 g of 3-[3-(4-acetyl-3-methoxy-2-n-propylphenoxy)-propoxy]-nitrobenzene in 100 ml of tetrahydrofuran and the whole is hydrogenated at room temperature. The catalyst is filtered off and washed with tetrahydrofuran. After concentration of the filtrate by evaporation under reduced pressure, 3-[3-(4-acetyl-3-methoxy-2-n-propylphenoxy)-propoxy]-aniline is obtained in the form of a colourless oil.

reactant | 3-[3-(4-acetyl-3-methoxy-2-n-propylphenoxy)-propoxy]-nitrobenzene | 10 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C=CC2)[N+](=O)[O-])C=C1)CCC)OC | C21H25NO6
catalyst | Raney nickel | 2.0 g | [Ni] | Ni
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-[3-(4-acetyl-3-methoxy-2-n-propylphenoxy)-propoxy]-aniline | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(N)C=CC2)C=C1)CCC)OC | C21H27NO4
